US05952325
1'-(2-Fluorophenyl)spiro[[1,3]dioxolane-2,4'-cyclohexane]-1'-carboxylic acid
1-(2-Fluorophenyl)-4-oxocyclohexane-1-carboxylic acid (D20, 16.36 g, 69 mmol) was stirred with toluene-4-sulphonic acid hydrate (0.50 g, 3 mmol) and 1,2-ethanediol (35 ml) at reflux in toluene (500 ml), removing the immiscible 1,2-ethanediol/water distillate via a Dean-Stark trap until the distillate was homogenous. The solution was then evaporated, dissolved in ethyl acetate, washed with water and brine, dried (Na2SO4) and evaporated to give the title compound (19.94 g, quantitative) as an amber syrup, contaminated with some unidentified materials (NMR).

reactant | 1-(2-Fluorophenyl)-4-oxocyclohexane-1-carboxylic acid | 69 mmol, 16.36 g | FC1=C(C=CC=C1)C1(CCC(CC1)=O)C(=O)O | C13H13FO3
reactant | toluene-4-sulphonic acid hydrate | 3 mmol, 0.50 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 1,2-ethanediol | 35 ml | C(CO)O | C2H6O2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1'-(2-Fluorophenyl)spiro[[1,3]dioxolane-2,4'-cyclohexane]-1'-carboxylic acid | 19.94 g | FC1=C(C=CC=C1)C1(CCC2(CC1)OCCO2)C(=O)O | C15H17FO4
